US05134147
2-Cyano-3-(2,3-dihydro-5-benzofuranyl)acrylic acid
39.5 g of 2,3-dihydro-5-benzofurancarbaldehyde (prepared according to the process described in J. Org. Chem. (1984), 49, p. 409), 22.7 g of 2-cyanoacetic acid and 4.08 g of ammonium acetate are mixed in 37 ml of pyridine and 210 ml of benzene The mixture is brought to reflux for 6 hours 30 minutes. The precipitate formed is isolated and then suspended in 600 ml of 6 N hydrochloric acid. The solid isolated is filtered off and washed with water and dried in the air.

reactant | 2,3-dihydro-5-benzofurancarbaldehyde | 39.5 g | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | 2-cyanoacetic acid | 22.7 g | C(#N)CC(=O)O | C3H3NO2
reactant | ammonium acetate | 4.08 g | C(C)(=O)[O-].[NH4+]
reactant | benzene | 210 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 37 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 6 N, 600 ml | Cl | ClH
product | 2-Cyano-3-(2,3-dihydro-5-benzofuranyl)acrylic acid | C(#N)C(C(=O)O)=CC=1C=CC2=C(CCO2)C1 | C12H9NO3
